US05610144
The operation is carried out as in Example 84, but starting from 0.88 g of benzyl 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionate (B form) in solution in 50 cm3 of ethyl acetate and 0.22 g of 10% palladium on charcoal. After treatment, 0.5 g of 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionic acid (B form), melting at 120° C., [α]D20 =+49.8°±0.8° (c=0.53; methanol), is obtained.

reactant | benzyl 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionate | 0.88 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)C(C(=O)OCC1=CC=CC=C1)C)=O)=O | C34H39N3O6
reactant | methanol | CO | CH4O
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.22 g | [Pd] | Pd
product | 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionic acid | 0.5 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)C(C(=O)O)C)=O)=O | C27H33N3O6
